US06881733B1
5-fluoro-6-bromobenzofuran
Beginning with 3.5 gm (15 mMol) 2-allyl-4-fluoro-5-bromophenol, the title compound was prepared in 90% yield essentially by the procedure described in Preparation XXXI with the exception that the cyclization/dehydration step was performed using sulfuric acid in toluene.

reactant | 2-allyl-4-fluoro-5-bromophenol | 15 mMol, 3.5 gm | C(C=C)C1=C(C=C(C(=C1)F)Br)O | C9H8BrFO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-6-bromobenzofuran | 90% yield | FC=1C(=CC2=C(C=CO2)C1)Br | C8H4BrFO
